US07091345B2
r) 2-(1,1-dimethyl-2-hydroxyethyl)-5-nitro-2,3-dihydro-1H-isoindol
20 g of 4-Nitro-phthalic anhydride and 8.94 g of 2-amino-2-methylpropanol were heated to 170° C. for 30 min. After cooling, water and CH2Cl2 were added, and the organic phase separated, concentrated and purified by chromatography on silica (eluent CH2Cl2/MeOH 97/3).

reactant | 4-Nitro-phthalic anhydride | 20 g | [N+](=O)([O-])C=1C=C2C(C(=O)OC2=O)=CC1 | C8H3NO5
reactant | 2-amino-2-methylpropanol | 8.94 g | NC(CO)(C)C | C4H11NO
reactant | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(1,1-dimethyl-2-hydroxyethyl)-5-nitro-2,3-dihydro-1H-isoindol | CC(CO)(C)N1CC2=CC=C(C=C2C1)[N+](=O)[O-] | C12H16N2O3
